US04251531
Dimethyl-4-amino-isophthalate (9 g) in 60 ml of dioxane and 18 ml of pyridine is treated with hexanoyl chloride (8.8 g) at room temperature for 16 hours. After dilution with water and extraction with ethyl acetate, the solution is washed with 40% citric acid and 5% NaHCO3 and evaporated to dryness, so obtaining dimethyl-4-hexanoylamino-isophthalate (14.8 g) that is dissolved in 75 ml of dioxane and treated with 75 ml of 2 N NaOH at room temperature for 6 hours. After acidification with HCl the precipitate is collected under vacuum and washed until neutral. 4-hexanoylamino-isophthalic acid (11.4 g) is obtained, which is treated with 26 ml of acetic anhydride at reflux for 10'. After cooling, dilute with 30 ml of isopropyl ether and filter. 6-carboxy-2-pentyl-4H-3,1-benzoxazin-4-one (7.3 g; m.p. 185°-190° C.) is obtained, which is treated at room temperature first with 70 ml of 32% ammonium hydroxide for 16 hours and then with 50 ml of 2 N NaOH for 2 hours. After acidification with 2 N HCl, the precipitate is filtered off and crystallized from ethanol, so obtaining 6-carboxy-2-pentyl-3,4-dihydro-4-oxo-quinazoline (6.1 g; m.p. 311°-313° C.).

reactant | Dimethyl-4-amino-isophthalate | 9 g | COC(C1=CC(C(=O)OC)=C(C=C1)N)=O | C10H11NO4
reactant | hexanoyl chloride | 8.8 g | C(CCCCC)(=O)Cl | C6H11ClO
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
product | 4-hexanoylamino-isophthalic acid | 11.4 g | C(CCCCC)(=O)NC1=C(C=C(C(=O)O)C=C1)C(=O)O | C14H17NO5
